US08440702B2
To a solution of (4S)-4-benzyl-1,3-oxazolidin-2-one (29.8 mg, 0.168 mmol) in DMF (1.5 mL) was added t-BuOK (17.5 mg, 0.152 mmol). After 10 minutes, a solution of methyl 2″-(bromomethyl)-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate (75 mg, 0.152 mmol) in DMF (1.5 mL) was added by cannula. The reaction was stirred for 30 minutes, and then quenched with saturated NH4Cl solution (10 mL), diluted with EtOAc (15 mL), washed with brine (10 mL), dried over Na2SO4, filtered, and concentrated. The residue was dissolved with MeOH (2 mL) and 4M KOH solution (0.5 mL) was added. The reaction was stirred at room temperature for 2 hours, then stored in the freezer for 16 hours. The reaction was warmed to room temperature, and stirred for 2 hours. The reaction was quenched with 1 N HCl solution (5 mL), diluted with EtOAc (15 mL), washed with brine (5 mL), dried over Na2SO4, filtered, and concentrated. The residue was purified by reverse-phase chromatography (C-18, 10 to 95% MeCN/water with 0.1% TFA), followed by lyophilization to afford 2″-{[(4S)-4-benzyl-2-oxo-1,3-oxazolidin-3-yl]methyl}-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic acid LCMS=576.0 (M+1)+. 1H NMR (CDCl3, 500 MHz, rotamers present) δ 8.01-7.86 (m, 2H), 7.67-7.50 (m, 2H), 7.44-7.32 (m, 3H), 7.23-7.07 (m, 5H), 6.91-6.85 (m, 2H), 4.92-4.58 (m, 2H), 4.27 (d, J=15.6 Hz), 4.11 (d, J=15.6 Hz), 4.06-3.82 (m, 5H), 3.64-3.51 (m, 1H), 2.86-2.71 (m, 1H), 2.47-2.28 (m, 4H).

reactant | (4S)-4-benzyl-1,3-oxazolidin-2-one | 0.168 mmol, 29.8 mg | C(C1=CC=CC=C1)[C@@H]1NC(OC1)=O | C10H11NO2
reactant | t-BuOK | 0.152 mmol, 17.5 mg | CC(C)(C)[O-].[K+]
reactant | methyl 2″-(bromomethyl)-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate | 0.152 mmol, 75 mg | BrCC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)OC)C | C24H20BrF3O3
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 2″-{[(4S)-4-benzyl-2-oxo-1,3-oxazolidin-3-yl]methyl}-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic acid | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)O)C | C33H28F3NO5
